US08871758B2
(S)-3-(tert-Butyldimethylsilanyloxy)-1-phenylpropylamine
1.50 g of (S)-3-amino-3-phenylpropan-1-ol hydrochloride were initially charged in 20 ml of dichloromethane and then 2.77 ml of triethylamine and 1.30 g of tert-butyldimethylchlorosilane were added. After stirring at room temperature for 3 hours, the reaction solution was extracted three times with 30 ml of water, dried by means of a phase separator cartridge (Isolute®), concentrated by rotary evaporation and dried under high vacuum. This gave the product (2.06 g) with a molecular weight of 265.5 g/mol (C15H27NOSi); MS (ESI): m/e=266 (M+H+).

reactant | (S)-3-amino-3-phenylpropan-1-ol hydrochloride | 1.50 g | Cl.N[C@@H](CCO)C1=CC=CC=C1
reactant | triethylamine | 2.77 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylchlorosilane | 1.30 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (S)-3-(tert-Butyldimethylsilanyloxy)-1-phenylpropylamine | 2.06 g | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=CC=CC=C1)N | C15H27NOSi
